US08633312B2
(S)-8-Chloro-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (13)
For the preparation of the title compound, 0.50 g (1.9 mmol) of 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 0.75 g (2.6 mmol) of (R)-toluene-4-sulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester and 0.80 g (5.8 mmol) of K2CO3 in 10 ml of dry DMF are reacted by method M. Yield: 53%; C21H21ClO4 (Mr=372.85); GC 22.8 min

reactant | 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 1.9 mmol, 0.50 g | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3O)C1 | C15H11ClO2
reactant | (R)-toluene-4-sulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester | 2.6 mmol, 0.75 g | CC1(OC[C@@H](O1)COS(=O)(=O)C1=CC=C(C=C1)C)C | C13H18O5S
reactant | K2CO3 | 5.8 mmol, 0.80 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (S)-8-Chloro-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | Yield: 53% | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC[C@@H]3OC(OC3)(C)C)C1 | C21H21ClO4
